US07732626B2
{2′,6′-diethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methanol
A solution of 2′,6′-diethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-carbaldehyde (2.86 g, 7.64 mmol) in a mixed solvent of methanol (8 mL) and tetrahydrofuran (16 mL) was ice-cooled, sodium borohydride (90%, 0.161 g, 3.82 mmol) was added, and the mixture was stirred for 2 hr under nitrogen atmosphere. The reaction mixture was treated with 10% aqueous citric acid solution, and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate hexane=40:80-80:20), and the obtained crystals were recrystallized from heptane-ethyl acetate to give the title compound (2.41 g, yield 84%) as colorless crystals.

reactant | 2′,6′-diethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-carbaldehyde | 7.64 mmol, 2.86 g | C(C)C1=C(C(=CC(=C1)OCCCS(=O)(=O)C)CC)C1=CC(=CC=C1)C=O | C21H26O4S
reactant | methanol | 8 mL | CO | CH4O
reactant | sodium borohydride | 3.82 mmol, 0.161 g | [BH4-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
product | {2′,6′-diethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methanol | 2.41 g, yield 84% | C(C)C1=C(C(=CC(=C1)OCCCS(=O)(=O)C)CC)C1=CC(=CC=C1)CO | C21H28O4S
